US05024994
BOC-AMINOMALONIC ACID, METHYL BENZYL ESTER
A solution of 94 g of aminomalonic acid, methyl benzyl ester in 75 ml Et2O was cooled to 5° and treated with 91.66 g of di-t-butyldicarbonate. After standing at 4° overnight, the solvent was removed under reduced pressure giving an oil. Chromatography on silica gel, eluting with hexane/EtOAc (85/15) gave 66.97 g (49% yield) of the product as an oil which solidified on standing. The structure was confirmed by NMR and mass spectroscopy.

reactant | aminomalonic acid, methyl benzyl ester | 94 g | NC(C(=O)OC)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | di-t-butyldicarbonate | 91.66 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | Et2O | 75 ml | CCOCC | C4H10O
product | BOC-AMINOMALONIC ACID, METHYL BENZYL ESTER | 66.97 g, 49% yield | C(=O)(OC(C)(C)C)C(C(=O)OC)(C(=O)OCC1=CC=CC=C1)N | C16H21NO6
